US05519040
To a solution of N-t-butyl-5-phenyl-2-thiazole sulfonamide (0.25 g, 0.84 mmol) in 17 mL of 1,2-dichloroethane was added methanesulfonic acid (0.11 mL, 1.68 mmol). The reaction was heated at reflux for 6.5 h and then concentrated. The product was subjected to flash chromatography (2:1 hexane/ethyl acetate). Recrystallization from ethyl acetate/hexane afforded 0.15 g (0.63 mmol, 63%) of 5-phenyl-2-thiazole sulfonamide (white crystals).

reactant | N-t-butyl-5-phenyl-2-thiazole sulfonamide | 0.84 mmol, 0.25 g | C(C)(C)(C)NS(=O)(=O)C=1SC(=CN1)C1=CC=CC=C1 | C13H16N2O2S2
reactant | methanesulfonic acid | 1.68 mmol, 0.11 mL | CS(=O)(=O)O | CH4O3S
solvent | 1,2-dichloroethane | 17 mL | ClCCCl | C2H4Cl2
product | 5-phenyl-2-thiazole sulfonamide | 0.63 mmol, 0.15 g, 63% | C1(=CC=CC=C1)C1=CN=C(S1)S(=O)(=O)N | C9H8N2O2S2
